US08034812B2
Production of N-[4-chloro-5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-fluorophenyl]-1,3-dimethyl-1H-pyrazole-5-carboxamide
Using N-[6-(5-amino-2-chloro-4-fluorophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (200 mg, 0.55 mmol), N,N-dimethylacetamide (4.0 mL) and 1,3-dimethyl-1H-pyrazole-5-carbonyl chloride (105 mg, 0.66 mmol), and in the same manner as in Example 120, the title compound (108 mg, 40%) was obtained as a white powder.

reactant | N-[6-(5-amino-2-chloro-4-fluorophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.55 mmol, 200 mg | NC=1C(=CC(=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C1)Cl)F | C16H13ClFN5O2
reactant | 1,3-dimethyl-1H-pyrazole-5-carbonyl chloride | 0.66 mmol, 105 mg | CN1N=C(C=C1C(=O)Cl)C | C6H7ClN2O
solvent | N,N-dimethylacetamide | 4.0 mL | CN(C(C)=O)C | C4H9NO
product | N-[4-chloro-5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)-2-fluorophenyl]-1,3-dimethyl-1H-pyrazole-5-carboxamide | 108 mg, 40% | ClC1=CC(=C(C=C1OC=1C=CC=2N(N1)C=C(N2)NC(=O)C2CC2)NC(=O)C2=CC(=NN2C)C)F | C22H19ClFN7O3
